US05919824
N-(2-Benzyloxyphenyl)-2-(N-tertiary butoxycarbonylamino)acetamide (S2)
2-Benzyloxyaniline (S1) (16.4 g), 4-dimethylamino-pyridine (11.0 g), and N-tertiarybutoxycarbonylglycine (14.4 g) were dissolved in dichloromethane. To the resulting solution, 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (16.3 g) was added and stirred for 12 hours at room temperature. The reaction mixture was washed -successively with 1N HCl, saturated aqueous sodium hydrogencarbonate solution and brine, then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, obtaining 11.5 g of the compound S2 as white powder.

reactant | 2-Benzyloxyaniline | 16.4 g | C(C1=CC=CC=C1)OC1=C(N)C=CC=C1 | C13H13NO
reactant | N-tertiarybutoxycarbonylglycine | 14.4 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 16.3 g | Cl.C(C)N=C=NCCCN(C)C
catalyst | 4-dimethylamino-pyridine | 11.0 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2-Benzyloxyphenyl)-2-(N-tertiary butoxycarbonylamino)acetamide | 11.5 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)NC(CNC(=O)OC(C)(C)C)=O | C20H24N2O4
